US07897613B2
(±)-2-(2-Chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile
To a mixture of methanol (2.50 l) and water (250 ml) was charged 4,5,6,7 -tetrahydro-thieno[3,2-c]pyridine hydrochloride (500 g; 2.85 mol) with stirring. After stirring for 10 minutes, sodium cyanide (153.0 g; 3.12 mol) was added and stirred further for 40 minutes. 2-Chlorobenzaldehyde (392.1 g; 2.79 mol) was added slowly to this reaction mixture between 23-28° C. over a period of 1.5 hours. After the addition was over, the flask was heated in an oil bath between 40-50° C. and maintained at this temperature for 4.5 hours. After cooling the reaction mixture to 25-30° C., 5% sodium metabisulfite solution (250 ml) was added and stirred for 1 hour at this temperature range. To the resulting slurry, water (7.5 l) was added and stirred for 1 hour at 25-30° C. The off-white solid thus formed was filtered, washed with a 1:1 mixture of methanol: water (2.5 l) and the wet cake was dried at 75° C. under vacuum (pressure: −0.8 kg/cm2) for 10 hours to obtain the product as an off-white solid. Yield: 719.0 g (87.4%). mp: 124-126.5° C. The product was identified by IR spectrum, 1H and 13C NMR investigation.

reactant | 4,5,6,7 -tetrahydro-thieno[3,2-c]pyridine hydrochloride | 2.85 mol, 500 g | Cl.S1C=CC=2CNCCC21
reactant | sodium cyanide | 3.12 mol, 153.0 g | [C-]#N.[Na+]
reactant | 2-Chlorobenzaldehyde | 2.79 mol, 392.1 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | sodium metabisulfite | 250 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | water | 7.5 l | O | H2O
solvent | water | 250 ml | O | H2O
solvent | methanol | 2.50 l | CO | CH4O
product | (±)-2-(2-Chlorophenyl)-(6,7-dihydro-4H-thieno[3,2-c]pyrid-5-yl)acetonitrile | ClC1=C(C=CC=C1)C(C#N)N1CC2=C(CC1)SC=C2 | C15H13ClN2S
